*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 16:35:45
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_0 CTX_L126_0 88.0879a
Cext_2 CTX_L10_0 CTX_L126_1|CTX_L134_0 54.423a
Cext_3 CTX_L10_0 CTX_L30_0 54.3695a
Cext_4 CTX_L10_0 CTX_L30_1|CTX_L50_4 46.4831a
Cext_5 CTX_L10_0 CTX_L30_2|CTX_L50_0 4.66324a
Cext_6 CTX_L10_0 CTX_L30_3 35.44a
Cext_7 CTX_L10_0 CTX_L30_4 35.3749a
Cext_8 CTX_L10_0 CTX_L30_5|CTX_L50_2 4.23588a
Cext_9 CTX_L10_0 CTX_L30_6 1.98151a
Cext_10 CTX_L10_0 CTX_L50_1 2.99994a
Cext_11 CTX_L10_0 CTX_L50_3 36.0401a
Cext_12 CTX_L10_0 CTX_L50_5 68.5821a
Cext_13 CTX_L10_0 CTX_L8_0 18.0437a
Cext_14 CTX_L10_0 N 15.2199a
Cext_15 CTX_L10_0 P 18.783a
Cext_16 CTX_L10_0 VSUBS 1.46314f
Cext_17 CTX_L126_0 CTX_L126_1|CTX_L134_0 352.633a
Cext_18 CTX_L126_0 CTX_L30_0 71.6166a
Cext_19 CTX_L126_0 CTX_L30_1|CTX_L50_4 76.417a
Cext_20 CTX_L126_0 CTX_L30_2|CTX_L50_0 10.843a
Cext_21 CTX_L126_0 CTX_L30_3 31.3737a
Cext_22 CTX_L126_0 CTX_L30_4 53.0842a
Cext_23 CTX_L126_0 CTX_L30_5|CTX_L50_2 110.263a
Cext_24 CTX_L126_0 CTX_L30_6 3.40748a
Cext_25 CTX_L126_0 CTX_L50_1 109.376a
Cext_26 CTX_L126_0 CTX_L50_3 277.062a
Cext_27 CTX_L126_0 CTX_L50_5 35.4475a
Cext_28 CTX_L126_0 CTX_L8_0 14.3987a
Cext_29 CTX_L126_0 N 24.5412a
Cext_30 CTX_L126_0 P 29.4591a
Cext_31 CTX_L126_0 VSUBS 1.52222f
Cext_32 CTX_L126_1|CTX_L134_0 CTX_L30_0 106.982a
Cext_33 CTX_L126_1|CTX_L134_0 CTX_L30_1|CTX_L50_4 22.3935a
Cext_34 CTX_L126_1|CTX_L134_0 CTX_L30_2|CTX_L50_0 54.7663a
Cext_35 CTX_L126_1|CTX_L134_0 CTX_L30_3 39.8202a
Cext_36 CTX_L126_1|CTX_L134_0 CTX_L30_4 49.3074a
Cext_37 CTX_L126_1|CTX_L134_0 CTX_L30_5|CTX_L50_2 4.90418a
Cext_38 CTX_L126_1|CTX_L134_0 CTX_L30_6 59.0218a
Cext_39 CTX_L126_1|CTX_L134_0 CTX_L50_1 11.721a
Cext_40 CTX_L126_1|CTX_L134_0 CTX_L50_3 12.7069a
Cext_41 CTX_L126_1|CTX_L134_0 CTX_L50_5 33.4302a
Cext_42 CTX_L126_1|CTX_L134_0 CTX_L8_0 19.7699a
Cext_43 CTX_L126_1|CTX_L134_0 N 73.5353a
Cext_44 CTX_L126_1|CTX_L134_0 P 28.892a
Cext_45 CTX_L126_1|CTX_L134_0 VSUBS 1.94637f
Cext_46 CTX_L30_0 CTX_L30_2|CTX_L50_0 282.991a
Cext_47 CTX_L30_0 CTX_L30_3 9.71987a
Cext_48 CTX_L30_0 CTX_L50_1 0.213293a
Cext_49 CTX_L30_0 CTX_L50_3 1.85943a
Cext_50 CTX_L30_0 CTX_L50_5 66.7116a
Cext_51 CTX_L30_0 CTX_L8_0 129.198a
Cext_52 CTX_L30_0 N 123.873a
Cext_53 CTX_L30_0 P 123.843a
Cext_54 CTX_L30_0 VSUBS 803.17a
Cext_55 CTX_L30_1|CTX_L50_4 CTX_L30_2|CTX_L50_0 2.63156a
Cext_56 CTX_L30_1|CTX_L50_4 CTX_L30_3 269.483a
Cext_57 CTX_L30_1|CTX_L50_4 CTX_L30_4 27.7252a
Cext_58 CTX_L30_1|CTX_L50_4 CTX_L30_5|CTX_L50_2 0.150239a
Cext_59 CTX_L30_1|CTX_L50_4 CTX_L30_6 0.234335a
Cext_60 CTX_L30_1|CTX_L50_4 CTX_L50_1 17.346a
Cext_61 CTX_L30_1|CTX_L50_4 CTX_L50_3 2.19776f
Cext_62 CTX_L30_1|CTX_L50_4 CTX_L50_5 358.017a
Cext_63 CTX_L30_1|CTX_L50_4 N 0.100382a
Cext_64 CTX_L30_1|CTX_L50_4 P 0.143084a
Cext_65 CTX_L30_1|CTX_L50_4 VSUBS 298.199a
Cext_66 CTX_L30_2|CTX_L50_0 CTX_L30_3 344.837a
Cext_67 CTX_L30_2|CTX_L50_0 CTX_L50_5 0.262638a
Cext_68 CTX_L30_2|CTX_L50_0 CTX_L8_0 25.7259a
Cext_69 CTX_L30_2|CTX_L50_0 N 1.3679f
Cext_70 CTX_L30_2|CTX_L50_0 P 0.663778a
Cext_71 CTX_L30_2|CTX_L50_0 VSUBS 332.484a
Cext_72 CTX_L30_3 CTX_L30_4 197.417a
Cext_73 CTX_L30_3 CTX_L50_1 15.8825a
Cext_74 CTX_L30_3 CTX_L50_3 25.0481a
Cext_75 CTX_L30_3 CTX_L50_5 27.6316a
Cext_76 CTX_L30_3 CTX_L8_0 4.7984a
Cext_77 CTX_L30_3 N 29.2729a
Cext_78 CTX_L30_3 P 22.0333a
Cext_79 CTX_L30_3 VSUBS 340.711a
Cext_80 CTX_L30_4 CTX_L30_5|CTX_L50_2 94.1709a
Cext_81 CTX_L30_4 CTX_L50_1 15.1081a
Cext_82 CTX_L30_4 CTX_L50_3 28.6464a
Cext_83 CTX_L30_4 CTX_L50_5 27.7252a
Cext_84 CTX_L30_4 CTX_L8_0 0.891612a
Cext_85 CTX_L30_4 N 29.5851a
Cext_86 CTX_L30_4 P 22.3455a
Cext_87 CTX_L30_4 VSUBS 553.238a
Cext_88 CTX_L30_5|CTX_L50_2 CTX_L50_1 556.8a
Cext_89 CTX_L30_5|CTX_L50_2 CTX_L50_3 241.539a
Cext_90 CTX_L30_5|CTX_L50_2 VSUBS 189.186a
Cext_91 CTX_L30_6 CTX_L50_3 0.180154a
Cext_92 CTX_L30_6 CTX_L50_5 1.11782a
Cext_93 CTX_L30_6 N 14.2023a
Cext_94 CTX_L30_6 P 2.03168a
Cext_95 CTX_L30_6 VSUBS 391.437a
Cext_96 CTX_L50_1 CTX_L50_3 214.047a
Cext_97 CTX_L50_1 CTX_L8_0 0.418591a
Cext_98 CTX_L50_1 VSUBS 786.59a
Cext_99 CTX_L50_3 CTX_L50_5 169.543a
Cext_100 CTX_L50_3 CTX_L8_0 1.96376a
Cext_101 CTX_L50_3 VSUBS 366.427a
Cext_102 CTX_L50_5 CTX_L8_0 2.81869a
Cext_103 CTX_L50_5 P 3.48775f
Cext_104 CTX_L50_5 VSUBS 243.526a
Cext_105 CTX_L8_0 N 11.984a
Cext_106 CTX_L8_0 P 3.85305a
Cext_107 CTX_L8_0 VSUBS 1.03576f
Cext_108 N P 3.48775f
Cext_109 N VSUBS 406.625a
Cext_110 P VSUBS 89.6415a
.ENDS sense_fill_clip
