*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 16:27:31
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L10_1|CTX_L10_3|CTX_L30_4 52.4399a
Cext_2 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0
+ 3.46473a
Cext_3 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L134_0 62.7254a
Cext_4 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L134_1 34.705a
Cext_5 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L30_8|CTX_L50_0 676.622a
Cext_6 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L8_0 101.543a
Cext_7 CTX_L10_0|CTX_L30_1|CTX_L8_1 CTX_L8_2 58.115a
Cext_8 CTX_L10_0|CTX_L30_1|CTX_L8_1 N 15.1934a
Cext_9 CTX_L10_0|CTX_L30_1|CTX_L8_1 P 0.186619a
Cext_10 CTX_L10_0|CTX_L30_1|CTX_L8_1 VSUBS 1.50912f
Cext_11 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L10_2 123.416a
Cext_12 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0
+ 77.2415a
Cext_13 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L134_0 33.6013a
Cext_14 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L134_1 76.4274a
Cext_15 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L30_3 1.89819a
Cext_16 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L30_8|CTX_L50_0 227.428a
Cext_17 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L50_4 3.9498a
Cext_18 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L50_5 42.1709a
Cext_19 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L50_6 90.8038a
Cext_20 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L50_7 65.5673a
Cext_21 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L8_0 2.60074a
Cext_22 CTX_L10_1|CTX_L10_3|CTX_L30_4 CTX_L8_2 80.2033a
Cext_23 CTX_L10_1|CTX_L10_3|CTX_L30_4 N 86.5244a
Cext_24 CTX_L10_1|CTX_L10_3|CTX_L30_4 P 63.2606a
Cext_25 CTX_L10_1|CTX_L10_3|CTX_L30_4 VSUBS 2.01601f
Cext_26 CTX_L10_2 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 108.421a
Cext_27 CTX_L10_2 CTX_L134_0 27.1066a
Cext_28 CTX_L10_2 CTX_L134_1 26.4399a
Cext_29 CTX_L10_2 CTX_L30_2|CTX_L50_3 69.1327a
Cext_30 CTX_L10_2 CTX_L30_3 12.0669a
Cext_31 CTX_L10_2 CTX_L30_5 12.0669a
Cext_32 CTX_L10_2 CTX_L30_6 12.0669a
Cext_33 CTX_L10_2 CTX_L30_7 12.0669a
Cext_34 CTX_L10_2 CTX_L30_8|CTX_L50_0 0.301893a
Cext_35 CTX_L10_2 CTX_L50_2 27.4406a
Cext_36 CTX_L10_2 CTX_L50_4 79.9838a
Cext_37 CTX_L10_2 CTX_L50_5 9.31747a
Cext_38 CTX_L10_2 CTX_L50_6 1.0066a
Cext_39 CTX_L10_2 CTX_L50_7 0.783091a
Cext_40 CTX_L10_2 CTX_L8_2 1.29245a
Cext_41 CTX_L10_2 N 0.602379a
Cext_42 CTX_L10_2 P 0.684185a
Cext_43 CTX_L10_2 VSUBS 1.39672f
Cext_44 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L134_0 121.675a
Cext_45 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L134_1 326.077a
Cext_46 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_2|CTX_L50_3 96.7159a
Cext_47 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_3 6.89173a
Cext_48 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_5 6.25121a
Cext_49 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_6 6.25121a
Cext_50 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_7 6.25121a
Cext_51 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L30_8|CTX_L50_0 98.8972a
Cext_52 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L50_2 145.743a
Cext_53 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L50_4 348.703a
Cext_54 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L50_5 259.455a
Cext_55 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L50_6 31.1143a
Cext_56 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L50_7 25.8318a
Cext_57 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 CTX_L8_2 32.8663a
Cext_58 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 N 17.9185a
Cext_59 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 P 21.5056a
Cext_60 CTX_L126_0|CTX_L30_0|CTX_L50_1|CTX_L67_0 VSUBS 1.77219f
Cext_61 CTX_L134_0 CTX_L134_1 925.802a
Cext_62 CTX_L134_0 CTX_L30_2|CTX_L50_3 9.2185a
Cext_63 CTX_L134_0 CTX_L30_3 4.13782a
Cext_64 CTX_L134_0 CTX_L30_8|CTX_L50_0 127.961a
Cext_65 CTX_L134_0 CTX_L50_2 25.617a
Cext_66 CTX_L134_0 CTX_L50_4 22.074a
Cext_67 CTX_L134_0 CTX_L50_5 22.3008a
Cext_68 CTX_L134_0 CTX_L50_6 16.3707a
Cext_69 CTX_L134_0 CTX_L50_7 8.72423a
Cext_70 CTX_L134_0 CTX_L8_0 14.2423a
Cext_71 CTX_L134_0 CTX_L8_2 12.4046a
Cext_72 CTX_L134_0 N 31.2451a
Cext_73 CTX_L134_0 P 8.6723a
Cext_74 CTX_L134_0 VSUBS 1.2692f
Cext_75 CTX_L134_1 CTX_L30_2|CTX_L50_3 21.2427a
Cext_76 CTX_L134_1 CTX_L30_3 17.6057a
Cext_77 CTX_L134_1 CTX_L30_5 15.6967a
Cext_78 CTX_L134_1 CTX_L30_6 3.79892a
Cext_79 CTX_L134_1 CTX_L30_8|CTX_L50_0 158.759a
Cext_80 CTX_L134_1 CTX_L50_2 29.6121a
Cext_81 CTX_L134_1 CTX_L50_4 20.8389a
Cext_82 CTX_L134_1 CTX_L50_5 15.7179a
Cext_83 CTX_L134_1 CTX_L50_6 23.1679a
Cext_84 CTX_L134_1 CTX_L50_7 15.622a
Cext_85 CTX_L134_1 CTX_L8_0 2.57014a
Cext_86 CTX_L134_1 CTX_L8_2 17.5541a
Cext_87 CTX_L134_1 N 40.606a
Cext_88 CTX_L134_1 P 15.622a
Cext_89 CTX_L134_1 VSUBS 1.12248f
Cext_90 CTX_L30_2|CTX_L50_3 CTX_L30_3 343.817a
Cext_91 CTX_L30_2|CTX_L50_3 CTX_L30_5 27.3286a
Cext_92 CTX_L30_2|CTX_L50_3 CTX_L30_6 27.1984a
Cext_93 CTX_L30_2|CTX_L50_3 CTX_L30_7 27.0841a
Cext_94 CTX_L30_2|CTX_L50_3 CTX_L30_8|CTX_L50_0 0.122894a
Cext_95 CTX_L30_2|CTX_L50_3 CTX_L50_2 998.792a
Cext_96 CTX_L30_2|CTX_L50_3 CTX_L50_4 973.056a
Cext_97 CTX_L30_2|CTX_L50_3 CTX_L50_5 0.121885a
Cext_98 CTX_L30_2|CTX_L50_3 CTX_L8_2 1.73206a
Cext_99 CTX_L30_2|CTX_L50_3 VSUBS 280.593a
Cext_100 CTX_L30_3 CTX_L30_5 32.4616a
Cext_101 CTX_L30_3 CTX_L50_2 29.4413a
Cext_102 CTX_L30_3 CTX_L50_4 3.38527a
Cext_103 CTX_L30_3 CTX_L8_2 0.125841a
Cext_104 CTX_L30_3 VSUBS 186.668a
Cext_105 CTX_L30_5 CTX_L30_6 128.785a
Cext_106 CTX_L30_5 CTX_L50_2 31.5779a
Cext_107 CTX_L30_5 CTX_L50_4 3.38527a
Cext_108 CTX_L30_5 CTX_L50_5 0.121885a
Cext_109 CTX_L30_5 CTX_L8_2 0.249311a
Cext_110 CTX_L30_5 VSUBS 213.947a
Cext_111 CTX_L30_6 CTX_L30_7 38.1694a
Cext_112 CTX_L30_6 CTX_L50_2 31.4573a
Cext_113 CTX_L30_6 CTX_L50_4 3.38527a
Cext_114 CTX_L30_6 CTX_L50_5 0.121885a
Cext_115 CTX_L30_6 CTX_L8_2 0.249311a
Cext_116 CTX_L30_6 VSUBS 203.065a
Cext_117 CTX_L30_7 CTX_L30_8|CTX_L50_0 2.53092a
Cext_118 CTX_L30_7 CTX_L50_2 31.2004a
Cext_119 CTX_L30_7 CTX_L50_4 3.38527a
Cext_120 CTX_L30_7 CTX_L50_5 0.121885a
Cext_121 CTX_L30_7 CTX_L8_2 0.125841a
Cext_122 CTX_L30_7 VSUBS 306.581a
Cext_123 CTX_L30_8|CTX_L50_0 CTX_L50_4 0.289015a
Cext_124 CTX_L30_8|CTX_L50_0 CTX_L50_5 2.51462a
Cext_125 CTX_L30_8|CTX_L50_0 CTX_L50_6 57.324a
Cext_126 CTX_L30_8|CTX_L50_0 CTX_L50_7 104.273a
Cext_127 CTX_L30_8|CTX_L50_0 CTX_L8_0 35.1785a
Cext_128 CTX_L30_8|CTX_L50_0 CTX_L8_2 110.121a
Cext_129 CTX_L30_8|CTX_L50_0 N 248.221a
Cext_130 CTX_L30_8|CTX_L50_0 P 105.17a
Cext_131 CTX_L30_8|CTX_L50_0 VSUBS 2.991f
Cext_132 CTX_L50_2 CTX_L50_4 96.3804a
Cext_133 CTX_L50_2 CTX_L8_2 0.62053a
Cext_134 CTX_L50_2 VSUBS 697.212a
Cext_135 CTX_L50_4 CTX_L50_5 369.046a
Cext_136 CTX_L50_4 CTX_L8_2 2.28849a
Cext_137 CTX_L50_4 VSUBS 389.613a
Cext_138 CTX_L50_5 CTX_L50_6 449.419a
Cext_139 CTX_L50_5 CTX_L8_2 5.4105a
Cext_140 CTX_L50_5 VSUBS 530.347a
Cext_141 CTX_L50_6 CTX_L50_7 3.48775f
Cext_142 CTX_L50_6 CTX_L8_2 9.54293a
Cext_143 CTX_L50_6 VSUBS 282.196a
Cext_144 CTX_L50_7 CTX_L8_2 21.6865a
Cext_145 CTX_L50_7 P 3.48775f
Cext_146 CTX_L50_7 VSUBS 81.9118a
Cext_147 CTX_L8_0 VSUBS 441.663a
Cext_148 CTX_L8_2 N 9.73282a
Cext_149 CTX_L8_2 P 50.7298a
Cext_150 CTX_L8_2 VSUBS 1.73792f
Cext_151 N P 3.48775f
Cext_152 N VSUBS 458.611a
Cext_153 P VSUBS 57.6056a
.ENDS sense_fill_clip
